US05043142
To a solution of 1.85 g (9.11 mmol) of 4-bromobenzylmercaptan in dry dichloromethane (30 ml) were added 2.72 g (10.9 mmol) of 4-bromobenzyl bromide and 2.31 g (22.8 mmol) of triethylamine in an atmosphere of argon, and the mixture was allowed to react at room temperature for 16 hours. To the solution was added water followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with ethyl acetate-hexane (1:4) yielded 3.08 g (8.29 mmol) of bis(4-bromobenzyl)sulfide.

reactant | 4-bromobenzylmercaptan | 9.11 mmol, 1.85 g | BrC1=CC=C(CS)C=C1 | C7H7BrS
reactant | 4-bromobenzyl bromide | 10.9 mmol, 2.72 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 22.8 mmol, 2.31 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | bis(4-bromobenzyl)sulfide | 8.29 mmol, 3.08 g | BrC1=CC=C(CSCC2=CC=C(C=C2)Br)C=C1 | C14H12Br2S
